US07723347B2
4-Chloro-3-fluoro-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine
488 mg (1.03 mmol) of 4-chloro-1-[(4-methylphenyl)sulfonyl]-3-(trimethylstannyl)-1H-pyrrolo[2,3-b]pyridine are initially charged in 20 ml of anhydrous acetonitrile. 368 mg (1.03 mmol) of Selectfluor® are then added in one portion, and the mixture is allowed to stir at RT overnight. For work-up, the precipitate formed is filtered off with suction and the filtrate is concentrated. The residue is purified by preparative HPLC. The product is a solid.

reactant | 4-chloro-1-[(4-methylphenyl)sulfonyl]-3-(trimethylstannyl)-1H-pyrrolo[2,3-b]pyridine | 1.03 mmol, 488 mg | ClC1=C2C(=NC=C1)N(C=C2[Sn](C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C
reactant | Selectfluor | 1.03 mmol, 368 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-Chloro-3-fluoro-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)N(C=C2F)S(=O)(=O)C2=CC=C(C=C2)C | C14H10ClFN2O2S
